US09353082B2
N-(4-phenylbutyl)-1H-benzo[d][1,2,3]triazole-1-carboxamide (monosubstituted triazole-1-carboxamide formation)
(4-Isocyanatobutyl)benzene (463 mg, 2.64 mmol) was added dropwise to a stirred solution of 1H-benzo[d][1,2,3]triazole (300 mg, 2.52 mmol) in DCM (18 ml) at 0-5° C. The clear reaction mixture was allowed to stir at 20-25° C. overnight. The solvent was removed in vacuum to give a clear oil. The oil solidified on standing into a colourless solid. The product was recrystallised from 2-propanol, the solid was collected, dried in vacuum at 45° C. Yield 477 mg (64%).

reactant | (4-Isocyanatobutyl)benzene | 2.64 mmol, 463 mg | N(=C=O)CCCCC1=CC=CC=C1 | C11H13NO
reactant | 1H-benzo[d][1,2,3]triazole | 2.52 mmol, 300 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
solvent | DCM | 18 ml | C(Cl)Cl | CH2Cl2
product | N-(4-phenylbutyl)-1H-benzo[d][1,2,3]triazole-1-carboxamide | C1(=CC=CC=C1)CCCCNC(=O)N1N=NC2=C1C=CC=C2 | C17H18N4O
